US06066642
3, 7-Diethoxy-5-hydroxyflavone (3b)
Galangin (27 mg, 0.1 mmol) was dissolved in dried acetone (20 mL), solid potassium carbonate (0.5 g) and bromoethane (1 mL) were added and the mixture was stirred overnight, at room temperature. The solution was filtered and evaporated, water (20 mL) and concentrated ammonium hydroxide (2 mL) were added and the solution was extracted with ethyl acetate (20 mL×2). The solution was dried and the solvent was evaporated. The residue was purified by preparative TLC plate (silica, ethyl acetate/petroleum ether 2:8) to give 21 mg product (64%). 1HNMR (CDCl3): d 1.34 (t, 3H, J=7.3 Hz, 3-CH3), 1.48 (t, 3H, J=7.1 Hz, 7-CH3), 4.14 (m, 4H, 2×OCH2), 6.38 (s, 1H, 6-H), 6.47 (s, 1H, 8-H), 12.64 (s, 1H, 5-OH). MS (CI/NH3): m/z 327 (MH+, base).

reactant | Galangin | 0.1 mmol, 27 mg | C=1C=CC(=CC1)C2=C(C(=O)C=3C(=CC(=CC3O2)O)O)O | C15H10O5
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethane | 1 mL | BrCC | C2H5Br
reactant | acetone | 20 mL | CC(=O)C | C3H6O
product | 3, 7-Diethoxy-5-hydroxyflavone | 21 mg, 64% | C(C)OC1=C(OC2=CC(=CC(=C2C1=O)O)OCC)C1=CC=CC=C1 | C19H18O5
